US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-hydroxy-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione
Racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione was dissolved in methanol (10 mL). To the stirred solution, KF (Aldrich, 270 mg) was added and the mixture was stirred at rt overnight. The solvent was removed under reduced and the residue was treated with 6 mL of 5% MeOH in methylene chloride. The solid was filtered out and the filtrate was concentrated to about 2 mL and loaded on to an ISCO column. Chromatography (eluent with 5% MeOH in methylene chloride) gave a white solid. 30 mg. MS (H+), 477.

reactant | Racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-hydroxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C[Si](C)(C)C)O)=O | C29H26Cl2N2O3Si
reactant | KF | 270 mg | [F-].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-hydroxy-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C)O)=O | C26H18Cl2N2O3
